.INCLUDE model28nm.spi
.INCLUDE 6T_cell.spi

X1    WL BL_Bad nBL_bad  1 0 6T_cell M = 31
X2    0  BL     nBL      1 0 6T_cell M = 255
Xcell WL BL     nBL      1 0 6T_cell

*
* 1v between VDD (1) and GND (0)
*
VCC 1 0 DC 1.0V
.IC V(BL) = 0.0V
.IC V(nBL) = 1.0V
.IC V(BL_Bad) = 0.0V
.IC V(nBL_bad) = 1.0V
.IC V(Xcell.Q) = 1.0V
.IC V(Xcell.nQ) = 0.0V

*
* Input wave
*
Vin0 WL 0 pwl(0.5ns 0 1ns 1 39ns 1 39.5ns 0)

.TRAN 1ns 40ns

.measure TRAN iavg AVG i(VCC) FROM=0ns TO=40ns
.measure TRAN power PARAM='iavg*1.0'

.END