* import technology model and gate design
.INCLUDE model28nm.spi
.INCLUDE inverter.spi

* inverter instantiation

x1 in inOut 1 0 inverter
x2 inOut out 1 0 inverter 

*
* 1v between VDD (1) and GND (0)
*
VCC 1 0 DC 1.0V

*
* Input wave
*
* 1.b.1.1.
Vin in 0 PULSE(0 1 5ns 0.5ns 0.5ns 14.5ns 25ns)

* 1.b.1.2.
*Vin in 0 pwl(0ns 0 20s 1)

.TRAN 1ns 25ns

*.plot in inOut out

.END
