*2-input NAND gate 
*Output is S 

.SUBCKT nand2 A B S 1 0

*pull-up transistors 
M1   1 A S 1 tp L=56n W=448n AS=75.3f AD=75.3f PS=1.23u PD=1.23u 
M2   1 B S 1 tp L=56n W=448n AS=75.3f AD=75.3f PS=1.23u PD=1.23u

*pull-down transistors 
M3   S B I1 0 tn L=56n W=224n AS=37.6f AD=37.6f PS= 784n PD=784n  
M4   I1 A 0 0 tn L=56n W=224n AS=37.6f AD=37.6f PS= 784n PD=784n 

.ENDS nand2 

